US06096735
To a solution of 4-phenyl-2-chloro-1-trifluoromethylsulfonyloxybenzene (35 g) in dimethylformamide (300 ml) are added palladium acetate (1.17 g), 1,3-bis(diphenylphosphino)propane (4.29 g), ethanol (91.5 ml) and triethylamine (29.0 ml) under carbon monooxide atmosphere, and the mixture is heated with stirring at 80-90° C. for 6 hours. To the reaction solution is added water, and further added a small amount of n-hexane. The mixture is extracted with ethyl acetate, and the ethyl acetate layer is washed with water, dried, and the residue is purified by silica gel column chromatography (solvent; n-hexane →ethyl acetate:n-hexane=1:100) to give ethyl 4-phenyl-2-chlorobenzoate (20.9 g) as colorless oil.

reactant | 4-phenyl-2-chloro-1-trifluoromethylsulfonyloxybenzene | 35 g | C1(=CC=CC=C1)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)Cl | C13H8ClF3O3S
reactant | 1,3-bis(diphenylphosphino)propane | 4.29 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | ethanol | 91.5 ml | C(C)O | C2H6O
reactant | triethylamine | 29.0 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 1.17 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | n-hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | ethyl 4-phenyl-2-chlorobenzoate | 20.9 g | C1(=CC=CC=C1)C1=CC(=C(C(=O)OCC)C=C1)Cl | C15H13ClO2
